US07414047B2
4-sec-Butyl-piperazine-1-carboxylic acid tert-butyl ester
A mixture of piperazine-1-carboxylic acid tert-butyl ester (7.00 g), 3-pentanone (3.89 g), glacial acetic acid (2.22 mL) and sodium triacetoxyborohydride (11.95 g) in dichloromethane (DCM, 200 mL) was stirred for 18 h at room temperature. The reaction mixture was quenched with 1 N aqueous NaOH (80 mL) and stirred for 2.5 h at room temperature. Additional water (100 mL) was added, and the resulting mixture was extracted with DCM (3×100 mL). Extracts were combined and washed with water (2×100 mL), dried (Na2SO4), and concentrated under reduced pressure, yielding the title compound (6.28 g).

reactant | piperazine-1-carboxylic acid tert-butyl ester | 7.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 3-pentanone | 3.89 g | CCC(CC)=O | C5H10O
reactant | acetic acid | 2.22 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 11.95 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-sec-Butyl-piperazine-1-carboxylic acid tert-butyl ester | 6.28 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C)CC | C13H26N2O2
